US05166198
To a solution of 9-[3-(diethoxyphosphoryl)propoxy]adenine (300 mg, 0.9 mmol) in dry dichloromethane (10 ml), was added bromotrimethylsilane (0.6 ml, 4.5 mmol). After 2 hours at ambient temperature, the solution was evaporated to dryness, the residue treated with methanol and the solution evaporated to dryness again. The solid residue was crystallised from methanol-acetone to afford 9-(3-phosphonopropoxy)adenine, hydrobromide salt, (80 mgs, 24%) m.p. 175°-180° C.. UV: λmax (MeOH) 259 (ε14,050) nm. IR: υmax (KBr) 1692, 1588, 1451, 1416, 1335, 1220, 1061, 1004, 952 cm-1. 1H NMR: δH [(CD3)2SO] 1.6-1.95 (4H, m, CH2CH2P), 4.47 (2H, t, J=6.5 Hz, N--OCH2), 8.46 (1H, s), 8.76 (1H, s), 7.0-10.0 (5H, broad, D2O exchangeable). Found: C, 27.29; H, 3.80; N, 19.64; Br, 21.52%. C8H13N5O4PBr requires: C, 27.13; H, 3.70; N, 19.78. Br, 22.50%.

reactant | 9-[3-(diethoxyphosphoryl)propoxy]adenine | 0.9 mmol, 300 mg | C(C)OP(=O)(OCC)CCCON1C2=NC=NC(=C2N=C1)N | C12H20N5O4P
reactant | bromotrimethylsilane | 4.5 mmol, 0.6 ml | Br[Si](C)(C)C | C3H9BrSi
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 9-(3-phosphonopropoxy)adenine, hydrobromide salt | 80 mgs, 24% | Br.P(=O)(O)(O)CCCON1C2=NC=NC(=C2N=C1)N | InChI=1S/C8H12N5O4P.BrH/c9-7-6-8(11-4-10-7)13(5-12-6)17-2-1-3-18(14,15)16;/h4-5H,1-3H2,(H2,9,10,11)(H2,14,15,16);1H
